US07576102B2
(R)-3-[4-(4-Chloro-phenoxy)-phenoxy]-pyrrolidine:
(R)-3-[4-(4-Chloro-phenoxy)-phenoxy]-pyrrolidine-1-carboxylic acid tert-butyl ester (1 g, 2.56 mmol) was taken into 4N HCl in dioxane (10 mL), and the reaction was run at room temperature for 24 h. The mixture was concentrated to dryness, and the resulting oil was triturated with diethyl ether to obtain the title product (344 mg, 41%); LCMS, m/z 290 (M+1, free amine) 81% pure; 1H NMR (400 MHz, DMSO); δ 2.13-2.16 (m, 2H), 3.24-3.33 (m, 4H), 5.11 (s, 1H), 6.95 (d, J=8.8, 2H), 7.04 (s, 4H), 7.40 (d, J=8.8, 2H), 9.66 (s, 2H).

reactant | (R)-3-[4-(4-Chloro-phenoxy)-phenoxy]-pyrrolidine-1-carboxylic acid tert-butyl ester | 2.56 mmol, 1 g | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)OC1=CC=C(C=C1)OC1=CC=C(C=C1)Cl | C21H24ClNO4
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | (R)-3-[4-(4-Chloro-phenoxy)-phenoxy]-pyrrolidine | 344 mg, 41% | ClC1=CC=C(OC2=CC=C(O[C@H]3CNCC3)C=C2)C=C1 | C16H16ClNO2
